US06271387B1
A mixture of 1 mmol of N-butylidenebutylamine, 2 mmol of 1,2-epoxy-2-methylpropane, 0.05 mmol of Cp*2Sm(THF)2, and 1 ml of tetrahydrofuran was stirred at room temperature for 5 hours. Products in a reaction mixture were isolated through column chromatography to yield 3-butyl-5,5-dimethyl-2-propyl-1,3-oxazolidine in yield of 53%.

reactant | N-butylidenebutylamine | 1 mmol | C(CCC)=NCCCC | C8H17N
reactant | 1,2-epoxy-2-methylpropane | 2 mmol | O1CC1(C)C | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 3-butyl-5,5-dimethyl-2-propyl-1,3-oxazolidine | yield of 53% | C(CCC)N1C(OC(C1)(C)C)CCC | C12H25NO
